US07265126B2
rac-4-Phenyl-8-(1-phenyl-cyclohexyl)-2,8-diaza-spiro[4.5]decan-1-one
To a solution of rac-1-(1-oxo-4-phenyl-2,8-diaza-spiro[4.5]dec-8-yl)-cyclohexanecarbonitrile (400 mg, 1.2 mmol) in dry THF (12 mL) under argon at 0° C. was added phenylmagnesium bromide (1 M in THF, 3.5 mL, 3.6 mmol) and the resulting mixture allowed to warm up to room temperature overnight. The reaction was quenched by the addition of ammonium chloride solution (sat., 20 mL) and the product extracted with ethyl acetate (2×50 mL). The combined organic extracts were then washed with brine (50 mL), dried over sodium sulfate, filtered and evaporated. The residue was purified by chromatography on silica gel eluting with DCM:MeOH:NH4OH (95:4.5:0.5) to afford the title compound (430 mg, 94%) as a white solid. MS: m/e=389.3 (M+H).

reactant | rac-1-(1-oxo-4-phenyl-2,8-diaza-spiro[4.5]dec-8-yl)-cyclohexanecarbonitrile | 1.2 mmol, 400 mg | O=C1NCC(C12CCN(CC2)C2(CCCCC2)C#N)C2=CC=CC=C2 | C21H27N3O
reactant | phenylmagnesium bromide | 3.6 mmol, 1 M, 3.5 mL | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | rac-4-Phenyl-8-(1-phenyl-cyclohexyl)-2,8-diaza-spiro[4.5]decan-1-one | 430 mg, 94% | C1(=CC=CC=C1)C1CNC(C12CCN(CC2)C2(CCCCC2)C2=CC=CC=C2)=O | C26H32N2O
